US07825150B2
To a flask charged with THI (21.20 mmol, 4.88 g) was added water (25 ml) and 1N aqueous HCl (21.2 ml, 21.2 mmol). After all solids dissolved, a solution of trityl hydroxylamine (25.44 mmol, 7.00 g) in dioxane (55 ml) was added and the reaction was maintained at 50° C. for 4 h. At completion, the reaction was cooled room temperature and the solution was adjusted to pH=7 by addition of 1N aqueous NaOH. The neutralized solution was then concentrated to a plastic mass, which was purified by flash chromatography on silica gel [10% MeOH/1% NH4OH (5% wt. solution in water) in DCM] to provide the trityl-ether as clear plastic. Treatment of the plastic mass with hexane and concentration provided a white foam, which could be dried under vacuum to a flaky solid (10.00 g, 97% yield).

reactant | water | 25 ml | O | H2O
reactant | HCl | 21.2 mmol, 1N, 21.2 ml | Cl | ClH
reactant | trityl hydroxylamine | 25.44 mmol, 7.00 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NO | C19H17NO
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dioxane | 55 ml | O1CCOCC1 | C4H8O2
product | trityl-ether | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H30O
